US06610723B2
1-Naphthalen-2-yl-1H-imidazole-4-carboxylic Acid Methyl Ester
A suspension of 2-naphtylboronic acid (1.4 g, 8 mmol), 1H-imidazole-4-carboxylic acid methyl ester (1.0 g, 8 mmol) and cupric acetate (1.4 g, 8 mmol) in CH2Cl2 (20 ml) was stirred at 20° C. for 24 h. AcOEt (100 ml) and saturated aqueous Seignette salt solution (50 ml) was added and the resulting mixture was stirred for another 2 h. After separation the organic phase was dried (Na2SO4), concentrated and chromatographed (silica, elution with CH2Cl2/MeOH 99:1) to yield the title compound (0.49 g, 24%) of the title compound as a white crystalline material. Mp. 143-144° C. (AcOEt), MS: m/e=252 (M+).

reactant | 2-naphtylboronic acid | 8 mmol, 1.4 g | C1=C(C=CC2=CC=CC=C12)B(O)O | C10H9BO2
reactant | 1H-imidazole-4-carboxylic acid methyl ester | 8 mmol, 1.0 g | COC(=O)C=1N=CNC1 | C5H6N2O2
reactant | AcOEt | 100 ml | CCOC(=O)C | C4H8O2
reactant | Seignette salt | 50 ml | [C@@H]([C@H](C(=O)[O-])O)(C(=O)[O-])O.[Na+].[K+]
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
product | 1-Naphthalen-2-yl-1H-imidazole-4-carboxylic Acid Methyl Ester | 0.49 g, 24% | COC(=O)C=1N=CN(C1)C1=CC2=CC=CC=C2C=C1 | C15H12N2O2
